US09161927B2
42.1 tert-butyl 4-(4-chlorophenyl)-4-hydroxypiperidine-1-carboxylate
500 mg 4-(4-chlorophenyl)-piperidin-4-ol are placed in 6 ml dioxane, then 0.9 ml of water and 400 mg sodium carbonate are added. After 5 min, 530 mg di-tert-butyl-dicarbonate are added. The reaction mixture is stirred for 12 hours at ambient temperature, then mixed with water and the product is extracted with dichloromethane. 790 mg of product are obtained in the form of an oil. Analytical HPLC-MS (method B): RT=1.65 min.

reactant | 4-(4-chlorophenyl)-piperidin-4-ol | 500 mg | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | water | 0.9 ml | O | H2O
reactant | sodium carbonate | 400 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl-dicarbonate | 530 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(4-chlorophenyl)-4-hydroxypiperidine-1-carboxylate | 790 mg | ClC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C16H22ClNO3
